US08431575B2
4-Fluoro-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (1.8 mmol, 0.5 g) was taken in 7M NH3 in MeOH (5 mL) and stirred at room temperature for 12 h in a sealed vial. All volatiles were removed under reduced pressure to provide 4-carbamoyl-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester as white solid.

reactant | 4-Fluoro-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 1.8 mmol, 0.5 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)F | C13H22FNO4
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 4-carbamoyl-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)C(N)=O | C11H19FN2O3
